US06251897B1
3-amino-1-(3,4-dimethoxyphenyl)-1-propanol (1.27 g, 6.02 mM), triethylamine (0.84 g, 8.30 mM), and methyl chloroformate (0.59 g, 6.25 mM) were dissolved in dried tetrahydrofuran (80 ml) and stirred at room temperature for 5.5 hours. The solution obtained was poured into ice water and extracted with methylene chloride. The organic layer was dried over anhydrous sodium sulfate, then the solvent was removed in vacuo to obtain a crude product of 1-(3,4-dimethoxyphenyl)-3-(methoxycarbonylamino)-1-propanol as a yellow oil. Next, the crude product was dissolved in dried benzene (5 ml). The mixture was dropped into a solution of sodium hydride (60%) (0.24 g, 6.04 mM) in dried benzene (40 ml) at room temperature, water was added into the reaction solution and the mixture stirred at that temperature for 24 hours, which was then extracted with methylene chloride. The extract was dried over anhydrous sodium sulfate, then the solvent was removed in vacuo to obtain a crude product as a brown solid. The crude product was washed with ether to obtain the above-described compound 0.86 g (yield 63.1%) as a light brown solid.

reactant | 3-amino-1-(3,4-dimethoxyphenyl)-1-propanol | 6.02 mM, 1.27 g | NCCC(O)C1=CC(=C(C=C1)OC)OC | C11H17NO3
reactant | triethylamine | 8.30 mM, 0.84 g | C(C)N(CC)CC | C6H15N
reactant | methyl chloroformate | 6.25 mM, 0.59 g | ClC(=O)OC | C2H3ClO2
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
product | 1-(3,4-dimethoxyphenyl)-3-(methoxycarbonylamino)-1-propanol | COC=1C=C(C=CC1OC)C(CCNC(=O)OC)O | C13H19NO5
